US05348976
Synthesis of N1 -[1-(5-nitro-2-benzofuranyl)ethyl]-L-valinamide hydrochloride (Intermediate Compound No. 26)
5.0 g of N2 -tert-butoxycarbonyl-N1 -[1-(5-nitro-2-benzofuranyl)ethyl]-L-valinamide was dissolved in 100 ml of tetrahydrofuran, and placed in a flow of hydrogen chloride gas for 1 hour at room temperature. The reaction mixture was then concentrated under reduced pressure, and the residual crude crystals obtained were washed with acetone to yield 3.6 g of the desired product (melting point: 211°-216° C.).

reactant | N2 tert-butoxycarbonyl-N1 -[1-(5-nitro-2-benzofuranyl)ethyl]-L-valinamide | 5.0 g | N#N.C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)NC(C)C=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-]
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N1 -[1-(5-nitro-2-benzofuranyl)ethyl]-L-valinamide hydrochloride | 3.6 g | Cl.[N+](=O)([O-])C=1C=CC2=C(C=C(O2)C(C)NC([C@@H](N)C(C)C)=O)C1 | InChI=1S/C15H19N3O4.ClH/c1-8(2)14(16)15(19)17-9(3)13-7-10-6-11(18(20)21)4-5-12(10)22-13;/h4-9,14H,16H2,1-3H3,(H,17,19);1H/t9?,14-;/m0./s1
